US07786104B2
11.4 6-(Pyrrolidin-1-yl)-4-trifluoromethyl-3-aminopyridine hydrochloride (Amine Vg)
A solution of 1 g (3.02 mmol) of 6-(pyrrolidin-1-yl)-4-trifluoromethyl-3-(tert-butoxycarbonylamino)pyridine, prepared in step 11.3, in 11 ml of 4N hydrochloric acid in dioxane is stirred for 5 hours at reflux. 200 ml of ethyl ether are subsequently added to the cooled reaction mixture. 0.8 g of a precipitate is recovered by filtration.

reactant | 6-(pyrrolidin-1-yl)-4-trifluoromethyl-3-(tert-butoxycarbonylamino)pyridine | 3.02 mmol, 1 g | N1(CCCC1)C1=CC(=C(C=N1)NC(=O)OC(C)(C)C)C(F)(F)F | C15H20F3N3O2
reactant | ethyl ether | 200 ml | C(C)OCC | C4H10O
reactant | hydrochloric acid | 4N, 11 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 6-(Pyrrolidin-1-yl)-4-trifluoromethyl-3-aminopyridine hydrochloride | Cl.N1(CCCC1)C1=CC(=C(C=N1)N)C(F)(F)F | InChI=1S/C10H12F3N3.ClH/c11-10(12,13)7-5-9(15-6-8(7)14)16-3-1-2-4-16;/h5-6H,1-4,14H2;1H
